US08471005B2
7-Bromo-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine (0.370 g, 1.52 mmol), 3-(tert-Butoxymethyl)phenylboronic acid (0.564 g, 2.71 mmol), Bis(tri-tert-butylphosphine)palladium (47 mg, 0.092 mmol), 2.00 M of Sodium Carbonate in Water (3.0 mL, 6.0 mmol), and N,N-Dimethylformamide (12.0 mL, 155 mmol) were combined in a reaction vial, partially degassed and backfilled with Nitrogen, and the mixture was heated at 60° C. overnight under an atmosphere of Nitrogen. The reaction mixture was diluted with water (25 mL) and DCM (25 mL). The aqueous was extracted with DCM (2×, 10 mL) and combined organics diluted with 1:1 EtOAc:hexane (50 mL), followed by washes with water (2×, 25 mL) and brine (25 mL). The organics were dried over sodium sulfate and conc. in vacuo to afford 7-(3-tert-Butoxymethyl-phenyl)-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine which was then oxidized, analogous to Example 1504a, to afford 7-(3-tert-Butoxymethyl-phenyl)-2-methanesulfonyl-pyrrolo[2,1-f][1,2,4]triazine (398 mg, 73%). 1H-NMR (DMSO-d6): 9.37 (s, 1H), 8.22 (s, 1H), 8.10 (d, 1H, J=7.77 Hz), 7.81 (d, 1H, J=4.97 Hz), 7.53 (t, 1H, J=7.77 Hz), 7.44 (d, 1H, J=4.97 Hz), 7.41 (d, 1H, J=7.77 Hz), 4.50 (s, 2H), 3.46 (s, 3H), 1.26 (s, 9H).

reactant | 7-Bromo-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine | 1.52 mmol, 0.370 g | BrC1=CC=C2C=NC(=NN21)SC | C7H6BrN3S
reactant | 3-(tert-Butoxymethyl)phenylboronic acid | 2.71 mmol, 0.564 g | C(C)(C)(C)OCC=1C=C(C=CC1)B(O)O | C11H17BO3
reactant | Sodium Carbonate | 2.00 M | C([O-])([O-])=O.[Na+].[Na+]
reactant | Water | 6.0 mmol, 3.0 mL | O | H2O
reactant | N,N-Dimethylformamide | 155 mmol, 12.0 mL | CN(C=O)C | C3H7NO
catalyst | Bis(tri-tert-butylphosphine)palladium | 0.092 mmol, 47 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | 7-(3-tert-Butoxymethyl-phenyl)-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine | C(C)(C)(C)OCC=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)SC | C18H21N3OS
